US05041453
1.0 g of 4-(2-quinolinylmethyloxy)phenol, .9 g of 7-bromomethyl-2-cyanobenzoxazole and 0.5 g of potassium carbonate are stirred at room temperature in 5 ml of dimethylformamide for 2 days. The reaction mixture is diluted with ethylacetate, filtered and concentrated. The residue is chromatographed on silica gel to give 2-cyano-7-(4-(quinolin-2-ylmethyloxy)phenoxymethyl)benzoxazole.

reactant | 4-(2-quinolinylmethyloxy)phenol | 1.0 g | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C=C1)O | C16H13NO2
reactant | 7-bromomethyl-2-cyanobenzoxazole | .9 g | BrCC1=CC=CC=2N=C(OC21)C#N | C9H5BrN2O
reactant | potassium carbonate | 0.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | 2-cyano-7-(4-(quinolin-2-ylmethyloxy)phenoxymethyl)benzoxazole | C(#N)C=1OC2=C(N1)C=CC=C2COC2=CC=C(C=C2)OCC2=NC1=CC=CC=C1C=C2 | C25H17N3O3
